* U:\Fall 2023\Electronics I\EE-Lab2\simulation\Prelab.asc
V1 N002 0 SINE(0 5 100)
D1 N002 N003 1N4148
C1 N003 0 100µF
R1 N003 0 2k
D2 N005 N001 1N4148
D3 N001 N004 1N4148
D4 N005 0 1N4148
D5 0 N004 1N4148
V2 N001 0 SINE(0 2.5 1k)
C2 N004 N005 100µF
R2 N004 N005 2k
V3 N006 0 SINE(0 10 1k)
R3 N007 N006 2k
D6 N007 P001 1N4148
D7 N007 P002 1N4148
V4 P001 0 4
V6 N008 0 SINE(0 20 1k)
R4 N009 N008 2k
D8 N009 P003 BZX84C6V2L
D9 0 P003 BZX84C6V2L
V7 N010 0 SINE(0 5 1k)
C3 N011 N010 100µF
D10 N011 N012 1N4148
R5 N011 N012 2k
V8 N012 0 2
V5 P002 0 4
.model D D
.lib C:\Users\youssef\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 40m
.backanno
.end
